US04237055
Following the procedure for the preparaton of 11-benzyloxy-1-bromo-6,10-dimethyl-5,6-epoxy-undecan-2-one, but employing 11-t-butyldiphenylsiloxy-1-bromo-6,10 -dimethyl-2-oxo-undec-5-ene (1.6 g) in place of 11-benzyloxy-1-bromo-6,10-dimethyl-2-oxo-undec-5-one, 11-t-butyldiphenylsiloxy-1-bromo-6,10-dimethyl-5,6-epoxy-undecan-2-one (1.3 g) is obtained as a yellow oil:

reactant | 11-benzyloxy-1-bromo-6,10-dimethyl-5,6-epoxy-undecan-2-one | C(C1=CC=CC=C1)OCC(CCCC1(C(CCC(CBr)=O)O1)C)C | C20H29BrO3
reactant | 11-t-butyldiphenylsiloxy-1-bromo-6,10 -dimethyl-2-oxo-undec-5-ene | 1.6 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC(=CCCC(CBr)=O)C)C | C29H41BrO2Si
product | 11-t-butyldiphenylsiloxy-1-bromo-6,10-dimethyl-5,6-epoxy-undecan-2-one | 1.3 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC1(C(CCC(CBr)=O)O1)C)C | C29H41BrO3Si
